US06242443B1
7-Chloro-3-(2-phenylethyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide
2-Phenylethyl isothiocyanate (0.36 g) was added to a stirred slurry of 2-amino-5-chlorobenzenesulfonamide sodium salt (0.50 g) in 5 ml of acetonitrile at 60° C. After 2½ h an additional amount of 2-phenylethyl isothiocyanate (0.18 g) was added, and the temperature was raised to 90° C. for 1½ h. The reaction mixture was treated with 1 ml of 4M acetic acid, 5 ml of ethanol and 0.1 g of charcoal and filtered through celite. The solvent was evaporated and the residue extracted with 10 ml of ethyl acetate. The solvent was evaporated and the oily residue was purified on a silica column eluted with ethyl acetate. The title compound was obtained as white crystals; m.p. 250-252° C.

reactant | 2-Phenylethyl isothiocyanate | 0.36 g | C1(=CC=CC=C1)CCN=C=S | C9H9NS
reactant | 2-amino-5-chlorobenzenesulfonamide sodium salt | 0.50 g | [Na+].NC1=C(C=C(C=C1)Cl)S(=O)(=O)[NH-]
reactant | 2-phenylethyl isothiocyanate | 0.18 g | C1(=CC=CC=C1)CCN=C=S | C9H9NS
reactant | acetic acid | 4M, 1 ml | C(C)(=O)O | C2H4O2
reactant | charcoal | 0.1 g | C | CH4
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-Chloro-3-(2-phenylethyl)amino-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)NCCC2=CC=CC=C2)C=C1 | C15H14ClN3O2S
